US07183293B2
(S)-3-[4-({[2-(Benzo[1,3]dioxol-5-yloxy)-pyridine-3-carbonyl]-amino}-methyl)-3-fluoro-phenoxy]-2-methyl-propionic acid of Formula (5.5.25)
2-(Benzo-[1,3]-dioxol-5-yloxy)-nicotinic acid (0.168 g, 0.65 mmol), (S)-3-(4-aminomethyl-3-fluoro-phenoxy)-2-methyl-propionic acid methyl ester hydrochloride (0.18 g, 0.65 mmol), 1-hydroxybenzotriazole hydrate (0.097 g, 0.72 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.138 g, 0.72 mmol) and triethylamine were dissolved in N, N-dimethylformamide (6 mL) and stirred at room temperature over night. The reaction was diluted in ethyl acetate and washed successively with dilute aqueous hydrochloric acid, dilute aqueous sodium hydroxide, and brine, and dried (Na2SO4). The product was purified by flash column chromatography (20% ethyl acetate/hexane). The residue was taken up in tetrahydrofuran (10 mL) and methanol (2 mL) and aqueous lithium hydroxide (2 mL, 1 M, 2 mmol). The reaction was stirred at room temperature 1 h. The solvents were stripped in vacuo and the residue partitioned between dilute aqueous hydrochloric acid and ethyl acetate. The aqueous was extracted with 2 aliquots ethyl acetate and the pooled organics were washed with brine, dried over sodium sulfate and concentrated in vacuo to afford a white solid (0.12 g, 39% yeild).

reactant | 2-(Benzo-[1,3]-dioxol-5-yloxy)-nicotinic acid | 0.65 mmol, 0.168 g | O1COC2=C1C=CC(=C2)OC2=C(C(=O)O)C=CC=N2 | C13H9NO5
reactant | (S)-3-(4-aminomethyl-3-fluoro-phenoxy)-2-methyl-propionic acid methyl ester hydrochloride | 0.65 mmol, 0.18 g | Cl.COC([C@H](COC1=CC(=C(C=C1)CN)F)C)=O
reactant | 1-hydroxybenzotriazole hydrate | 0.72 mmol, 0.097 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.72 mmol, 0.138 g | Cl.CN(CCCN=C=NCC)C
reactant | lithium hydroxide | 2 mmol, 1 M, 2 mL | [OH-].[Li+]
solvent | N, N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 2 mL | CO | CH4O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)-3-[4-({[2-(Benzo[1,3]dioxol-5-yloxy)-pyridine-3-carbonyl]-amino}-methyl)-3-fluoro-phenoxy]-2-methyl-propionic acid | O1COC2=C1C=CC(=C2)OC2=NC=CC=C2C(=O)NCC2=C(C=C(OC[C@@H](C(=O)O)C)C=C2)F | C24H21FN2O7
